US04228274
About 2 ml. stannic chloride is added to a solution of 8 grams of D-mannose pentaacetate and 2.6 ml. trimethylsilyl azide in 180 ml. methylene chloride, and the resulting mixture is stirred at a temperature of about 25° C. for a period of approximately six hours. The reaction solution is diluted with an additional 100 ml. of methylene chloride, and the resulting methylene chloride solution is washed successively with water, with aqueous sodium bicarbonate solution, again with water, and dried over anhydrous sodium sulfate. The dry methylene chloride solution is evaporated in vacuo to a syrup which crystallizes upon standing to give approximately 7.6 grams of 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl azide; m.p. 52°-53° C. (after recrystallization from 2-propanol); [α]D25 +116°, (c 1.02, chloroform).

reactant | D-mannose pentaacetate | 8 grams | C(C)(=O)O[C@H](C=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O | C16H22O11
reactant | trimethylsilyl azide | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl azide | approximately 7.6 grams | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N=[N+]=[N-] | C14H19N3O9
